US06992100B2
6. Preparation of 11-Methoxy-7,8,9,10-tetrahydro-5H-benzo[b]carbazole-1-carboxylic acid, methyl ester
A solution of 2-(1-methoxy-5,6,7,8-tetrahydronaphthalen-2-yl)-3-nitrobenzoic acid, methyl ester, (0.5 g, 1.46 mM) in triphenyl phosphite (2.26 g, 1.91 mL, 7.29 mM) was heated at 160° C. for 48 h under a nitrogen atmosphere. The mixture was cooled to room temperature and dried azeotropically in vacuo with toluene, then purified by column chromatography on silica gel (elution with 10% ethyl acetate/hexane) to afford 0.2 g (44%) of the title compound 11-methoxy-7,8,9,10-tetrahydro-5H-benzo[b]carbazole-1-carboxylic acid, methyl ester as a tan solid (MP 194–196° C., MW 309.37).

reactant | 2-(1-methoxy-5,6,7,8-tetrahydronaphthalen-2-yl)-3-nitrobenzoic acid, methyl ester | 1.46 mM, 0.5 g | COC1=C(C=CC=2CCCCC12)C1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C19H19NO5
solvent | triphenyl phosphite | 7.29 mM, 1.91 mL, 2.26 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
product | 11-Methoxy-7,8,9,10-tetrahydro-5H-benzo[b]carbazole-1-carboxylic acid, methyl ester | 0.2 g, 44% | COC1=C2C(=CC=3NC=4C=CC=C(C4C13)C(=O)OC)CCCC2 | C19H19NO3
